US04021479
4-(4'-Acetamido-3'-bromo-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(4'-acetamino-3'-bromo-4-biphenylyl)-4-oxo-butyric acid. Yield: 53% of theory, m.p. 125°-126° C. Melting point of the cyclohexylamine salt: 165°-167° C. (from ethanol).

reactant | 4-(4'-acetamino-3'-bromo-4-biphenylyl)-4-oxo-butyric acid | N(C(=O)C)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)Br | C18H16BrNO4
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethanol | C(C)O | C2H6O
product | 4-(4'-Acetamido-3'-bromo-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 53% | C(C)(=O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O)Br | C18H18BrNO4
